US05543406
A sample of 17β-carboxy-6-t-butylcarboxy-6-azaandrost-4-en-3-one (2.03 g, 4.86 mmol), from part F, is coupled with t-butyl amine as described in Example 1, part A, to give crude 17β-N-t-butylcarbamoyl-6-t-butylcarboxy-6-azaandrost-4-en-3-one which is dissolved in methylene chloride (30 mL) and treated with trifluoroacetic acid (4 mL) at room temperature. After 3 hrs the reaction is concentrated, methylene chloride (50 mL) and saturated aqueous bicarbonate (50 mL) added, the layers separated, methylene chloride washed with saturated aqueous NaCl, dried over MgSO4, concentrated and chromatographed on silica gel (0-10% methanol/methylene chloride) to give 17β-N-t-butylcarbamoyl-6-azaandrost-4-en-3-one as a white solid; yield: 1.04 g (57%). Recrystallization from methylene chloride/hexanes gives an analytical sample as a white crystalline solid; m.p. 186°-189° C. Anal. Calcd. for C23H36N2O2 ·3/8H2O; C, 72.83; H, 9.77; N, 7.38. Found C, 72.95; H, 9.85; N, 7.22.

reactant | 17β-carboxy-6-t-butylcarboxy-6-azaandrost-4-en-3-one | 4.86 mmol, 2.03 g | C(=O)(O)[C@@H]1[C@]2(CC(=O)O)[C@@H](CC1)[C@@H]1CN(C3=CC(CC[C@]3(C)[C@H]1CC2)=O)C(C)(C)C | C24H35NO5
reactant | t-butyl amine | C(C)(C)(C)N | C4H11N
product | 17β-N-t-butylcarbamoyl-6-t-butylcarboxy-6-azaandrost-4-en-3-one | C(C)(C)(C)NC(=O)[C@@H]1[C@]2(CC(=O)O)[C@@H](CC1)[C@@H]1CN(C3=CC(CC[C@]3(C)[C@H]1CC2)=O)C(C)(C)C | C28H44N2O4
